US08735579B2
tert-butyl 4-{4-[5-(5-tert-butyl-3-methanesulphinyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate
At ambient temperature 560 μl of a 50% solution of propanephosphoric acid cycloanhydride in ethyl acetate are added to a solution of 120 mg tert-butyl 4-[4-(5-carboxy-2-methyl-phenoxy)-pyridin-2-ylmethyl]-piperidine-1-carboxylate, mg 5-tert-butyl-3-methanesulphinyl-2-methoxy-aniline and 145 μl triethylamine in 4 ml of tetrahydrofuran. The solution is heated to 80° C. and stirred overnight at this temperature. Then the solution is evaporated to dryness and the residue is combined with saturated aqueous NaHCO3 solution and ethyl acetate. The organic phase is separated off and washed with water and saturated aqueous saline solution and dried (Na2SO4). The solvent is evaporated off, and the residue is chromatographed on silica gel with dichloromethane/10% methanolic ammonia solution (99:1→90:10) as eluant.

reactant | tert-butyl 4-[4-(5-carboxy-2-methyl-phenoxy)-pyridin-2-ylmethyl]-piperidine-1-carboxylate | 120 mg | C(=O)(O)C=1C=CC(=C(OC2=CC(=NC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C1)C | C24H30N2O5
reactant | 5-tert-butyl-3-methanesulphinyl-2-methoxy-aniline | C(C)(C)(C)C=1C=C(C(=C(N)C1)OC)S(=O)C | C12H19NO2S
reactant | triethylamine | 145 μl | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-{4-[5-(5-tert-butyl-3-methanesulphinyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1C=CC(=C(OC2=CC(=NC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)OC)S(=O)C | C36H47N3O6S
